Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Simvastatin
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, vomiting, bloody diarrhea.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: Mr. ___ is a ___ year-old male with a history of 
hypertension,
hyperlipidemia who presented with abdominal pain, nausea, and 
vomiting that started on ___ when he came to the ED. Patient 
reports multiple episodes of vomiting that he reports as a 
pinkish color without blood. Patient also endorses lower 
abdominal pain that constant and crampy, and worsens with 
movement as well as one loose stool that was slightly bloody. 

Additionally patient endorses feeling lightheaded. He denies 
chest pain, shortness of breath, leg swelling, rash, dysuria, 
history of similar symptoms. He denies history of abdominal 
surgery.

In the ED, initial vitals: 96.9 71 154/69 16 100% RA 

- Exam notable for:  Tender throughout lower abdomen. Guaiac 
positive orange stool.

- Labs notable for: Normal CBC, ___, PTT and INR wnl, negative
trop, LFTs wnl.
UA notable for: trace proteins, trace ketones, with hyaline 
casts

- Imaging notable for: CT ABD & PELVIS WITH CO  
  
1.  12 cm segment of descending colon exhibiting mucosal 
hyperemia, wall thickening/edema, and mild adjacent fat 
stranding, compatible with descending colitis.  No evidence of 
an adjacent drainable fluid collection or free intraperitoneal 
air. 
  
2.  Normal appendix. 

- Pt given:  Ciprofloxacin 400 mg IV, MetroNIDAZOLE 500 mg IV, 
Ondansetron 4 mg IV ONCE, NS 100 ml as fluid bolus

- Vitals prior to transfer:  HR 76 BP 130/64 RR 18 O2 100

On the floor, patient endorses the above history. He reports 
another episode of loose bloody stool in addition to persistent 
abdominal cramping. Reports that nausea and vomiting have 
improved as has the lightheadedness.

 
Past Medical History:
- Malignant schwannoma status post chemotherapy (cytoxan and
adriamycin)
- left arm amputation above the elbow.
- HTN
- Hyperlipidemia

 
Social History:
___
Family History:
Notable for a father who died of an MI at age ___.  Mother died 
of lung cancer in her ___.  Brother who had a brain aneurysm in 
his ___ with resultant stroke and surgery.  A sister died of 
lung cancer at age ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:

VITALS: 98.6 PO 161 / 82 R Lying 83 20 98 RA  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, tender, bowel sounds present, no organomegaly, no 
rebound or guarding, reducible umbilical hernia noted
GU: No foley  
Ext: Warm, well perfused, left arm amputation above the elbow
Skin: Warm, dry, no rashes or notable lesions.   
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation 

DISCHARGE PHYSICAL EXAM:

VITALS: T 98.4 BP 124/85 HR 66 RR 18 Sa 98 RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
LUNGS: CTAB, no c/w/rhonchi appreciated
HEART: RRR s1+s2 normal, no m/r/g appreciated
ABDOMEN: bs+ in all 4q, NTND. No rebound tenderness or guarding. 

EXTREMITIES: No edema appreciated.
NEURO: A&O x3

 
Pertinent Results:
ADMISSION LABS
--------------------
___ 12:52PM   LACTATE-1.9
___ 12:40PM   ___ PTT-28.4 ___
___ 07:30AM   GLUCOSE-140* UREA N-15 CREAT-0.9 SODIUM-139 
POTASSIUM-4.9 CHLORIDE-98 TOTAL CO2-23 ANION GAP-18
___ 07:30AM   estGFR-Using this
___ 07:30AM   ALT(SGPT)-20 AST(SGOT)-28 ALK PHOS-83 TOT 
BILI-0.7
___ 07:30AM   LIPASE-32
___ 07:30AM   cTropnT-<0.01
___ 07:30AM   ALBUMIN-4.9
___ 07:30AM   ETHANOL-NEG
___ 07:30AM   WBC-9.8# RBC-5.10 HGB-15.0 HCT-45.7 MCV-90 
MCH-29.4 MCHC-32.8 RDW-14.1 RDWSD-46.5*
___ 07:30AM   NEUTS-88.7* LYMPHS-9.1* MONOS-1.7* EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-8.66* AbsLymp-0.89* AbsMono-0.17* 
AbsEos-0.00* AbsBaso-0.02
___ 07:30AM   PLT SMR-UNABLE TO  PLT COUNT-UNABLE TO 
___ 07:30AM   ___ PTT-UNABLE TO  ___
___ 03:56AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:56AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-TR* BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 03:56AM URINE  RBC-1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 03:56AM URINE  HYALINE-3*
___ 03:56AM URINE  MUCOUS-RARE*

IMAGING
---------------
CT ABD AND PELVIS WITH CONTRAST 
  
INDICATION:  ___ man with nausea, vomiting, diarrhea, 
and abdominal pain.  Evaluate for diverticulitis. 
  
TECHNIQUE:   Single phase split bolus contrast: MDCT axial 
images were 
acquired through the abdomen and pelvis following intravenous 
contrast 
administration with split bolus technique. 
Oral contrast was not administered. 
Coronal and sagittal reformations were performed and reviewed on 
PACS. 
  
DOSE:  Acquisition sequence: 
   1) Stationary Acquisition 7.5 s, 0.5 cm; CTDIvol = 36.1 mGy 
(Body) DLP = 18.1 mGy-cm. 
   2) Spiral Acquisition 5.3 s, 57.9 cm; CTDIvol = 15.3 mGy 
(Body) DLP = 886.3 mGy-cm. 
 Total DLP (Body) = 904 mGy-cm. 
  
COMPARISON:  CT abdomen pelvis of ___. 
  
FINDINGS:  
  
LOWER CHEST: There is minimal bibasilar atelectasis without 
evidence of 
pericardial or pleural effusions. 
  
ABDOMEN: 
  
HEPATOBILIARY: A 1.8 cm hypodensity in the left hepatic lobe is 
unchanged 
since the prior study, likely representing a hepatic cyst or 
biliary 
hamartoma.  The liver otherwise demonstrates homogenous 
attenuation 
throughout.  There is no evidence of intrahepatic or 
extrahepatic biliary 
dilatation.  The gallbladder is within normal limits. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation.  There is no peripancreatic stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  Bilateral simple renal cysts measure up to 
1.7 cm on the right and 1.6 cm on the left.  Other subcentimeter 
renal hypodensities are too small to characterize, but are 
statistically also likely cysts.  There is fullness of both 
renal pelves, as seen on the prior study, without evidence of 
ureteral stones or bladder stones.  There is no perinephric 
abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate normal caliber, wall thickness, and 
enhancement throughout.  There is a segment of descending colon 
measuring approximately 11-12 cm, which is collapsed, but 
exhibits mucosal hyperemia, wall thickening/edema, and mild 
adjacent fat stranding, compatible with descending colitis.  
There is no adjacent drainable fluid collection or free 
intraperitoneal air.  There are multiple sigmoid diverticula.  
The appendix is normal. 
  
PELVIS: The urinary bladder is distended, but otherwise 
unremarkable.  The 
distal ureters are unremarkable.  There is no free fluid in the 
pelvis. 
  
REPRODUCTIVE ORGANS: The prostate is mildly enlarged. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease is noted.  Incidental note is made of a 
circumaortic left renal vein. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. Degenerative changes in the lumbar spine are 
mild, most pronounced at L5-S1, where there are marginal spurs 
and vacuum disc phenomenon. 
  
SOFT TISSUES: An umbilical hernia containing fat is noted. 
  
IMPRESSION:  
  
1.  12 cm segment of descending colon exhibiting mucosal 
hyperemia, wall 
thickening/edema, and mild adjacent fat stranding, compatible 
with descending colitis.  No evidence of an adjacent drainable 
fluid collection or free intraperitoneal air. 
  
2.  Normal appendix. 

Micro:
-----------
C diff negative
FECAL CULTURE (Pending): 

CAMPYLOBACTER CULTURE (Pending): 

OVA + PARASITES (Pending): 

FECAL CULTURE - R/O VIBRIO (Pending): 

FECAL CULTURE - R/O YERSINIA (Pending): 

FECAL CULTURE - R/O E.COLI ___:H7 (Pending)

DISCHARGE LABS
--------------------

___ 06:50AM BLOOD WBC-8.6 RBC-4.23* Hgb-12.5* Hct-38.2* 
MCV-90 MCH-29.6 MCHC-32.7 RDW-14.3 RDWSD-47.1* Plt ___
___ 06:50AM BLOOD ___ PTT-28.7 ___
___ 06:50AM BLOOD Glucose-96 UreaN-12 Creat-0.9 Na-139 
K-4.0 Cl-103 HCO3-25 AnGap-11
___ 06:50AM BLOOD Calcium-8.6 Phos-3.6 Mg-1.9
 
Brief Hospital Course:
This is a ___ year old male with past medical history of 
hypertension, admitted ___ with abdominal pain and bloody 
diarrhea, thought to have been infectious enterocolitis, 
clinically improved with antibiotics and able to be discharged 
home

# Infectious Enterocolitis
Patient was admitted with abdominal pain, nausea, vomiting and 
bloody diarrhea.  CT abdomen and pelvis showed 12 cm segment of 
descending colon that exhibited mucosal hyperemia, wall 
thickening/edema and mild adjacent fat stranding compatible 
with descending colitis. He was given IV fluids, and started on 
cipro/flagyl with subsequent slow clinical improvement.  His 
diet was able to be advanced over subsequent 72 hours.  He was 
able to tolerate a regular diet and was able to be discharged 
home to complete 10 day course of cipro/flagyl.

#BPH
Patient had been recently diagnosed with BPH as an outpatient, 
but had been noncompliant with tamsulosin; counseled him 
regarding compliance with tamsulosin and to discuss further 
with his outpatient provider(s). 

#HTN
Continued on home amlodipine.

# CAD
Continued on home ASA, atorvastatin 

TRANSITIONAL ISSUES: 
[ ] would consider discussing outpatient colonoscopy to ensure 
resolution of area of colitis seen on imaging and ensure there 
are no other contributing etiologies  
 
- New Meds: Ciprofloxacin 500mg BID, metronidazole 500mg TID. 
Last day ___  
- Stopped/Held Meds: none
- Changed Meds:  none
- Post-Discharge Follow-up Labs Needed: none
- Incidental Findings:  none
- Discharge weight:  92.76 kg

# CODE:  Full
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. amLODIPine 10 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Aspirin 81 mg PO DAILY 
4. Tamsulosin 0.4 mg PO BID 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*13 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*20 Tablet Refills:*0 
3.  amLODIPine 10 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  Tamsulosin 0.4 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Infectious Enterocolitis
# BPH
# HTN
# CAD
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
1) You were admitted because you were having belly pain, nausea, 
vomiting and loose stools.

WHAT HAPPENED IN THE HOSPITAL?
1) You had a CT scan that showed some inflammation in your 
colon.
2) You were started on two oral antibiotics called ciprofloxacin 
and metronidazole.

WHAT SHOULD YOU DO AT HOME?
1) You should continue taking your antibiotics until ___.
2) You should follow up with your primary care doctor the week 
of ___.
3) You should continue to take your other medications as before.

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team
 
Followup Instructions:
___